US07173031B2
D) 1-(3-Fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenyl)-3-(2-(4-fluorophenyl)acetyl)guanidine
To a test tube containing 3-fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine (20 mg, 0.082 mmol) and 1-(2-(4-fluorophenyl)acetyl)-2-methylisothiourea (20 mg, 0.086 mmol) was added 0.3 mL of toluene followed by diisopropylethylamine (15 μL, 0.086 mmol). The reaction was stirred at 110° C. for 6 h. Additional portions of 1-(2-(4-fluorophenyl)-acetyl)-2-methylisothiourea (20 mg, 0.086 mmol) and diisopropylethylamine (15 μL, 0.086 mmol) were added. After stirring at 110° C. overnight, the reaction was cooled to room temperature and purified directly by flash chromatography on silica gel (SiO2, EtOAc/Hexane 1:1) to give the title compound as a white solid. The solid was treated with 4 N HCl in dioxane at 0° C. for 30 min. The solution was concentrated in vacuo to give the HCl salt of the title compound (15 mg, 40%) as a white powder. 1H NMR (CDCl3) δ 13.8 (br s, 1H), 11.5 (br s, 1H), 9.48 (br s, 1H), 7.85 (s, 1H), 7.78 (dd, 1H, J=2.5, 1.4 Hz), 7.30 (m, 5H), 7.01 (m, 3H), 6.85 (m, 1H); MS(ESI+) m/z 423.1 (M+H)+.

reactant | 3-fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine | 0.082 mmol, 20 mg | FC=1C=C(C=CC1OC1=NC=NN2C1=CC=C2)N | C12H9FN4O
reactant | 1-(2-(4-fluorophenyl)acetyl)-2-methylisothiourea | 0.086 mmol, 20 mg | FC1=CC=C(C=C1)CC(=O)NC(SC)=N | C10H11FN2OS
reactant | diisopropylethylamine | 0.086 mmol, 15 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(2-(4-fluorophenyl)-acetyl)-2-methylisothiourea | 0.086 mmol, 20 mg | FC1=CC=C(C=C1)CC(=O)NC(SC)=N | C10H11FN2OS
reactant | diisopropylethylamine | 0.086 mmol, 15 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenyl)-3-(2-(4-fluorophenyl)acetyl)guanidine | FC=1C=C(C=CC1OC1=NC=NN2C1=CC=C2)NC(=N)NC(CC2=CC=C(C=C2)F)=O | C21H16F2N6O2
